US07435735B2
Step 5: 1-Ethyl-6,6-dimethylpiperazin-2-one
The compound was prepared from benzyl 4-ethyl-3,3-dimethyl-5-oxopiperazine-1-carboxylate using a procedure similar to that described in Example 66, Step 6, except that Degussa type 10% palladium on carbon was used as the catalyst, and the additional filtration with toluene was unnecessary.

reactant | benzyl 4-ethyl-3,3-dimethyl-5-oxopiperazine-1-carboxylate | C(C)N1C(CN(CC1=O)C(=O)OCC1=CC=CC=C1)(C)C | C16H22N2O3
catalyst | palladium on carbon | [Pd] | Pd
product | 1-Ethyl-6,6-dimethylpiperazin-2-one | C(C)N1C(CNCC1(C)C)=O | C8H16N2O
